US06911463B2
(2-{7-[2-(4-Cyano-phenyl)-vinyl]-1H-indol-3-yl}-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester is prepared from [1,1-dimethyl-2-(7-trifluoromethanesulfonylmethyl-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester and 4-cyanostyrene as described for the preparation of Amine 23 (93%). FDMS m/e=315.2 (M++1).

reactant | [1,1-dimethyl-2-(7-trifluoromethanesulfonylmethyl-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)CS(=O)(=O)C(F)(F)F)(C)C)=O | C19H25F3N2O4S
reactant | 4-cyanostyrene | C(#N)C1=CC=C(C=C)C=C1 | C9H7N
product | (2-{7-[2-(4-Cyano-phenyl)-vinyl]-1H-indol-3-yl}-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)C=CC1=CC=C(C=C1)C#N)(C)C)=O | C26H29N3O2
